US05260285
2-Cyclopropyl-5,7-dimethyl-3-[(2'-(tetrazol-5-yl)biphen-4-yl)methyl]pyrazolo[1,5-a]pyrimidine
To a solution of 1.21 g (2.06 mmol) 3-cyclopropyl-2-[(2'-(N-triphenylmethyl-tetrazol-5-yl)biphen-4-yl)methyl]-3-oxopropanenitrile in 20 mL ethanol was added 0.196 mL (6.18 mmol) anhydrous hydrazine. The mixture was refluxed for five hours then was stripped of solvent in vacuo. The crude material was exposed to 0.1 Torr for one hour to give a light yellow foam then was redissolved in 20 mL DMF. To the solution was added 0.706 mL (12.3 mmol) acetic acid and 1.27 mL (12.4 mmol) 2,4-pentanedione. The solution was heated to 120° C. for 6 hours then was cooled to RT and diluted with brine. The mixture was extracted 3 times with ether then the aqueous material was discarded. The combined organic material was extracted twice with 5% aqueous NaOH solution then the organic layer was discarded. The combined aqueous extracts were washed once with ether. An indicator quantity of phenolphthalein was added to the aqueous material followed by concentrated HCl just until the pink color disappeared. A few drops of 10% NaOH was added just until the pink color returned then 4 mL acetic acid was added. The mixture was extracted twice with a combination of ether/methylene chloride then twice with just ether. The combined organic material was dried over MgSO4 and decolorized with activated charcoal, was filtered through a powdered cellulose filter aid, was stripped of solvent in vacuo, then was chromatographed on silica gel under medium pressure using 1/50/49 acetic acid/ethyl acetate/hexanes then again on silica gel under medium pressure uding 1/15/84 concentrated ammonium hydroxide/methanol/methylene chloride. The purified material was stripped of solvent in vacuo, was converted to foam at 0.1 Torr, was crushed to a powder with a spatula, then was exposed to 0.1 Torr overnight to remove traces of ammonia. A final weight of 314 mg (36% yield) of the title compound was obtained. Rf 0.23 in 1/15/84 concentrated ammonium hydroxide/methanol/methylene chloride, visualized by UV and ammonium molybdate/ceric sulfate stain;

reactant | 3-cyclopropyl-2-[(2'-(N-triphenylmethyl-tetrazol-5-yl)biphen-4-yl)methyl]-3-oxopropanenitrile | 2.06 mmol, 1.21 g | C1(CC1)C(C(C#N)CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C39H31N5O
reactant | hydrazine | 6.18 mmol, 0.196 mL | NN | H4N2
reactant | acetic acid | 12.3 mmol, 0.706 mL | C(C)(=O)O | C2H4O2
reactant | 2,4-pentanedione | 12.4 mmol, 1.27 mL | CC(CC(C)=O)=O | C5H8O2
reactant | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | ethanol | 20 mL | C(C)O | C2H6O
solvent | brine | [Cl-].[Na+].O
product | 2-Cyclopropyl-5,7-dimethyl-3-[(2'-(tetrazol-5-yl)biphen-4-yl)methyl]pyrazolo[1,5-a]pyrimidine | 314 mg, 36% yield | C1(CC1)C1=NN2C(N=C(C=C2C)C)=C1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1 | C25H23N7
